US06605628B1
1-(5-Iodo-pent-1-ynyl)-4-methanesulfonylbenzene
Preparation of the title compound with tosylated alcohol of Example 19, 5-(4-methanesulfonylphenyl)pent-4-yn-1-ol (3.14 g, 8.35 mmol), NaI (6.26 g, 41.76 mmol) following the procedure of Example 54 yielded 2.8 g (96%) of the title compound as a red oil: NMR (CDCl3) δ 2.06-2.15 (m, 2H), 2.58-2.63 (t, J=6.78, 2H), 3.04 (s, 3H), 3.33-3.37 (t, J=6.69, 2H), 7.57 (d, J=1.77, 2H), 7.85 (d, J=4.95, 2H). MS m/z 348.9 (M+H cald. for C12H13IO2S 348=349.2).

reactant | 5-(4-methanesulfonylphenyl)pent-4-yn-1-ol | 8.35 mmol, 3.14 g | CS(=O)(=O)C1=CC=C(C=C1)C#CCCCO | C12H14O3S
reactant | NaI | 41.76 mmol, 6.26 g | [Na+].[I-]
product | 1-(5-Iodo-pent-1-ynyl)-4-methanesulfonylbenzene | ICCCC#CC1=CC=C(C=C1)S(=O)(=O)C | C12H13IO2S
